US07446229B2
N-(3,5-Dimethoxy-phenyl)-4-methyl-benzenesulfonamide.
A mixture of 3,5-dimethoxylaniline (24.0 g, 156.9 mmol) and p-toluenesulfonyl chloride (29.8 g, 156.9 mmol) in anhydrous pyridine (70 mL) was stirred and heated to reflux for 30 min under argon atmosphere. The reaction mixture was cooled to room temperature and poured into 400 mL of ice-cold water. Dichloromethane was added to extract the product. The organic layer was separated and washed with water, 5% HCl aqueous solution, water and brine and dried with anhydrous Na2SO4. Removal of solvent provided yellow solid crude, which was purified by re-crystallization in diethyl ether to afford 42.6 g (89.0%) of the title compound as light yellow crystalline solid. mp 103-104° C.

reactant | 3,5-dimethoxylaniline | 156.9 mmol, 24.0 g | O(C)C=1C=C(N)C=C(C1)OC | C8H11NO2
reactant | p-toluenesulfonyl chloride | 156.9 mmol, 29.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | pyridine | 70 mL | N1=CC=CC=C1 | C5H5N
product | N-(3,5-Dimethoxy-phenyl)-4-methyl-benzenesulfonamide | 42.6 g, 89.0% | COC=1C=C(C=C(C1)OC)NS(=O)(=O)C1=CC=C(C=C1)C | C15H17NO4S
